### PR TITLE
feat(Algebra/IndWeaklyEtale): every ind-étale algebra is weakly étale

### PR DESCRIPTION
**Pull request by chrisflav**
Close the `sorry` for the instance `Algebra.IndEtale R S → Algebra.WeaklyEtale R S` in `Proetale/Algebra/IndWeaklyEtale.lean`.

The new ingredient is the filtered-colimit stability of flatness of the multiplication map: if `S = colim_i Sᵢ` is a filtered colimit in `CommAlgCat R` and each `lmul'_{Sᵢ/R} : Sᵢ ⊗[R] Sᵢ → Sᵢ` is flat, then `lmul'_{S/R} : S ⊗[R] S → S` is flat. This is added as `RingHom.Flat.of_filteredColim_lmul'` in the new file `Proetale/Mathlib/RingTheory/Flat/FilteredColimit.lean`, along with the colimit witness `ColimitPresentation.isColimitDiagPushout` for the diagonal pushout diagram. Flatness of `S` over `R` is transferred from the `CommAlgCat`-level presentation to `ModuleCat` via the existing `FaithfullyFlat` machinery.

Add `lemma:ind-etale-weakly-etale-algebra` to the blueprint with `\lean{}` + `\leanok`.

The pre-existing unrelated `sorry` for `Algebra.WeaklyEtale.exists_indEtale` (Olivier, Stacks 097Y) is left untouched.

### CODE REVIEW

File: Proetale/Mathlib/CategoryTheory/Limits/Presentation.lean [hunk 1]
```diff
@@ -64,6 +67,82 @@ lemma diagPushout_inr_map {i j : ι} (h : i ⟶ j) :
...
+    apply pushout.hom_ext
+    · simp only [diagPushoutCocone_app]
+      rw [pushout.inl_desc_assoc]
+      erw [Category.id_comp]
+      refine P.isColimit.hom_ext fun k ↦ ?_
+      rw [P.isColimit.fac]
+      change P.ι.app k ≫ pushout.inl (P.ι.app k) (P.ι.app k) ≫ s.ι.app k = _
+      rw [P.diagPushout_inl_app_eq s k i]
+    · simp only [diagPushoutCocone_app]
+      rw [pushout.inr_desc_assoc]
```
Comment (chrisflav) [inline Proetale/Mathlib/CategoryTheory/Limits/Presentation.lean]: Get rid of the `erw` and `change`s by using the correct API lemmas instead. Do the same elsewhere.

File: blueprint/src/chapters/more-on-local-structure.tex
Comment (jjdishere) [inline blueprint/src/chapters/more-on-local-structure.tex:1]: also add this to verso blueprint

File: .gitignore
Comment (jjdishere) [inline .gitignore:1]: don't edit this file

File: Proetale/Algebra/IndWeaklyEtale.lean [hunk 2]
```diff
@@ -1,13 +1,27 @@
...
+  -- weak étaleness is stable under filtered colimits.
+  obtain ⟨ι, _, _, P, hP⟩ := Algebra.IndEtale.exists_colimitPresentation (R := R) (S := S)
+  -- Each `P.diag.obj i` is étale, hence weakly étale: it is flat over `R` and `lmul'` is flat.
+  have hwe (i : ι) : Module.Flat R (P.diag.obj i) ∧
+      (Algebra.TensorProduct.lmul' R (S := P.diag.obj i)).Flat := by
+    have : Algebra.Etale R (P.diag.obj i) := hP i
+    exact ⟨(inferInstance : Algebra.WeaklyEtale R (P.diag.obj i)).flat,
+      Algebra.WeaklyEtale.flat_lmul' R (P.diag.obj i)⟩
+  exact ⟨CommAlgCat.flat_of_colimitPresentation P fun i ↦ (hwe i).1,
+    RingHom.Flat.of_filteredColimit_lmul' P fun i ↦ (hwe i).2⟩
```
Comment (jjdishere) [inline Proetale/Algebra/IndWeaklyEtale.lean]: The prove of this lemma works for proving "filtered colimit of weakly etale algebra is weakly etale".
Check whether there exists a lemma directly stating "filtered colimit of weakly etale algebra is weakly etale" existing in `Proetale.Algebra.WeaklyEtale`. If not, add it in this file. Then use it to prove this lemma.

File: Proetale/Algebra/IndWeaklyEtale.lean [hunk 3]
```diff
@@ -1,13 +1,23 @@
...
-    Algebra.WeaklyEtale R S :=
-  sorry
+    Algebra.WeaklyEtale R S := by
+  -- Write `S` as a filtered colimit of étale (hence weakly étale) `R`-algebras and use that
+  -- weak étaleness is stable under filtered colimits.
+  obtain ⟨ι, _, _, P, hP⟩ := Algebra.IndEtale.exists_colimitPresentation (R := R) (S := S)
+  refine Algebra.WeaklyEtale.of_colimitPresentation P fun i ↦ ?_
+  -- Each `P.diag.obj i` is étale, hence weakly étale.
+  have : Algebra.Etale R (P.diag.obj i) := hP i
+  infer_instance
```
Comment (jjdishere) [inline Proetale/Algebra/IndWeaklyEtale.lean:20]: with this new proof, do we need all the aux lemmas in other files of this PR? remove unnecessary ones. Also modify the proof in blueprint and verso blurprint.

File: Challenge.lean
Comment (jjdishere) [inline Challenge.lean:1]: make sure this file and solution file does not exists in the PR.

Comment (chrisflav) [reply Challenge.lean:1]: The issue here is that the `.agent` validation loop enforces that `mk_all` succeeds, which forces the agent to add these files.

**Comment by chrisflav** [comment]
Merge latest master into this branch and fix the merge conflicts.

**Comment by chrisflav** [comment]
Addressed the review ("merge latest master and fix the merge conflicts").

**Changes pushed**

- `99bb056` — merge `upstream/master` into the branch. Two conflicts:
  - `blueprint/src/chapters/more-on-local-structure.tex`: master `521510c` deleted the LaTeX blueprint and renamed `blueprint-verso/` → `blueprint/`. Removed the `.tex` file; the blueprint entry for `lemma:ind-etale-weakly-etale-algebra` lives in the Verso chapter `blueprint/ProetaleBlueprint/Chapters/MoreOnLocalStructure.lean`, which git carried through the rename automatically.
  - `.agent/validation.sh`: master `f503ab2` already scopes `mk_all` to the `Proetale` lib, so the branch-local variant of that change is dropped in favour of master's.
- `630501b` — replace the five remaining `change` tactics in `Proetale/Algebra/FilteredColimitLmul.lean` by API lemmas (`Algebra.TensorProduct.lmul'_apply_tmul`, `AlgHom.commutes`, `simp [α]`), following up on the earlier "get rid of the `erw`/`change`s, do the same elsewhere" comment.

The diff against master is now 6 files; `lake build --wfail` and `lake exe mk_all --lib Proetale --git --check` both pass.

**Updated PR description** — I have no tool that can edit a PR body (this task's MCP group is `comment` / `get_pr_comments` only, and `gh pr edit` is not allowed), so the rewritten description is below for you to paste in:

> Close the `sorry` for the instance `Algebra.IndEtale R S → Algebra.WeaklyEtale R S`.
>
> - `Algebra.IndEtale.weaklyEtale` (blueprint `lemma:ind-etale-weakly-etale-algebra`): every ind-étale `R`-algebra is weakly étale. `RingHom.IndEtale.weaklyEtale` is the `RingHom` version.
> - `Algebra.WeaklyEtale.of_colimitPresentation`, in the new file `Proetale/Algebra/FilteredColimitLmul.lean`: weak étaleness is stable under filtered colimits in `CommAlgCat R`. Combined with "étale implies weakly étale" this gives the instance above.
> - `RingHom.Flat.of_filteredColimit_lmul'`: the multiplication-map half of the previous item — if `S = colim_i Sᵢ` is a filtered colimit in `CommAlgCat R` and each `lmul'_{Sᵢ/R} : Sᵢ ⊗[R] Sᵢ → Sᵢ` is flat, then `lmul'_{S/R} : S ⊗[R] S → S` is flat. Flatness of `S` over `R` is `CommAlgCat.flat_of_colimitPresentation`, split out of the existing `faithfullyFlat_of_colimitPresentation`.
> - `CategoryTheory.Limits.ColimitPresentation.isColimitDiagPushout`: for a connected index category, the codiagonal cocone exhibits `X` as the colimit of `i ↦ pushout (P.ι.app i) (P.ι.app i)`. This is what identifies `S ⊗[R] S` as the filtered colimit of the `S ⊗[Sᵢ] S`.
>
> The blueprint entry for `lemma:ind-etale-weakly-etale-algebra` is added to the Verso blueprint.
>
> The pre-existing unrelated `sorry` for `Algebra.WeaklyEtale.exists_indEtale` (Olivier, Stacks 097Y) is left untouched.
